US05747515
1-(2-Methoxyphenyl)-1-(4-methyl-5-oxazolyl)ethanol
2-Bromoanisole (4.86g) in anhydrous diethylether (10 ml) was added dropwise to a stirred solution of n-butyllithium (2.5M solution in hexane, 10.4 ml) in diethylether (30 ml) at -70° C. under an atmosphere of dry nitrogen. After 45 minutes, 5-acetyl-4-methyloxazole (2.5g) in diethylether (loml) was added dropwise. After a further 1 hour at -70° C. the reaction mixture was allowed to warm to room temperature and was stirred overnight. Saturated aqueous sodium hydrogen carbonate was added. The organic layer was separated and the aqueous layer was extracted with diethylether. The combined organic layers were further processed to give the title compound as a white solid, m.p. 74-75° C.

reactant | 2-Bromoanisole | 4.86g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | n-butyllithium | 2.5M, 10.4 ml | C(CCC)[Li]
reactant | 5-acetyl-4-methyloxazole | 2.5g | C(C)(=O)C1=C(N=CO1)C | C6H7NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
solvent | diethylether | 30 ml | C(C)OCC | C4H10O
product | 1-(2-Methoxyphenyl)-1-(4-methyl-5-oxazolyl)ethanol | COC1=C(C=CC=C1)C(C)(O)C1=C(N=CO1)C | C13H15NO3
